US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.70 g, 1.3 mmol) and 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidine (0.58 g, 1.8 mmol), and potassium carbonate (0.37 g, 2.7 mmol) in dimethylformamide (22 mL). Heat to 70-75° C. After 4 days, cool and evaporate in vacuo to obtain a residue. Partition the residue between ethyl acetate and water. Extract the organic layer with water and a saturated solution of potassium carbonate. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 2/1 ethyl acetate/methanol to give a foam. Combine the foam with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain the title compound: Rf=0.37 (silica gel, 2/1 ethyl acetate/methanol); mp; 110-120° C.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 1.3 mmol, 0.70 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)OC)OC)C=C(C1OC)OC | C25H33NO8S
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidine | 1.8 mmol, 0.58 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C3(CCNCC3)O)C=C1 | C19H20FN3O
reactant | potassium carbonate | 2.7 mmol, 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | dimethylformamide | 22 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)OC)OC)CCN2CCC(CC2)(O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C43H49FN4O7
